US06992067B2
N-methyl-N-(2,3,4,5,6-pentahydroxyhexyl)-6-{4-[3-[3-(tert-butyldimethylsilanyloxy)-3-(4-fluorophenyl)propyl]-1-(4-fluorophenyl)-4-oxoazetidin-2-yl]phenyl}hex-5-enamide (68)
110 mg of 4-(4-bromophenyl)-3-[3-(tert-butyldimethylsilanyloxy)-3-(4-fluorophenyl)propyl]-1-(4-fluorophenyl)azetidin-2-one and 136 mg of N-methyl-N-(2,3,4,5,6-pentahydroxyhexyl)-hex-5-enamide are initially charged in 300 μl of triethylamine under argon in a closed tube which had been heated thoroughly beforehand. After addition of 6 mg of palladium acetate and 14 mg of triphenylphosphine, the mixture is stirred at 100° C. for 4 h. The reaction mixture is then taken up in dichloromethane, filtered and concentrated using a rotary evaporator. Purification of the residue using an SiO2 cartridge (dichloromethane/methanol 20:1–5:1) gives the product. C43H58F2N2O8Si (796)

reactant | 4-(4-bromophenyl)-3-[3-(tert-butyldimethylsilanyloxy)-3-(4-fluorophenyl)propyl]-1-(4-fluorophenyl)azetidin-2-one | 110 mg | BrC1=CC=C(C=C1)C1C(C(N1C1=CC=C(C=C1)F)=O)CCC(C1=CC=C(C=C1)F)O[Si](C)(C)C(C)(C)C | C30H34BrF2NO2Si
reactant | N-methyl-N-(2,3,4,5,6-pentahydroxyhexyl)-hex-5-enamide | 136 mg | CN(C(CCCC=C)=O)CC(C(C(C(CO)O)O)O)O | C13H25NO6
reactant | triphenylphosphine | 14 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | triethylamine | 300 μl | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | palladium acetate | 6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-methyl-N-(2,3,4,5,6-pentahydroxyhexyl)-6-{4-[3-[3-(tert-butyldimethylsilanyloxy)-3-(4-fluorophenyl)propyl]-1-(4-fluorophenyl)-4-oxoazetidin-2-yl]phenyl}hex-5-enamide | CN(C(CCCC=CC1=CC=C(C=C1)C1N(C(C1CCC(C1=CC=C(C=C1)F)O[Si](C)(C)C(C)(C)C)=O)C1=CC=C(C=C1)F)=O)CC(C(C(C(CO)O)O)O)O | C43H58F2N2O8Si
